US07838498B2
A mixture of palladium chloride (159 mg, 0.053 mmol) and copper chloride (267 mg, 0.27 mmol) in DMF (3 mL) was stirred for 2.5 h at room temperature. (2S,3S,4R,5R,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran (intermediate O-1) (300 mg, 0.36 mmol) was added to the mixture and stirred overnight under oxygen. The reaction mixture was filtered, the filtrate was poured into water and extracted with ethyl acetate (20 mL×3). The combined extracts were dried over Na2SO4, filtered, and evaporated to dryness. The residue was purified by preparative TLC, which afforded 1-(5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyloxy)propan-2-one (intermediate T-1) (178 mg, 0.33 mmol, yield 58.2%). 1H-NMR (DMSO-d6, 300 MHz) δ 1.062 (t, J=8.1 Hz, 3H), 1.988 (s, 3H), 2.452 (dd, J=8.1 Hz, 2H), 3.603 (m, 6H), 3.793 (m, 2H), 3.997 (s, 2H), 4.125 (s, 2H), 4.491 (11, 7H), 4.744 (m, 4H), 6.789 (m, 2H), 7.015 (m, 4H), 7.169 (m, 5H), 7.288 (m, 13H), 7.457 (s, 2H).

reactant | (2S,3S,4R,5R,6R)-2-(2-(allyloxymethyl)-4-chloro-5-(4-ethylbenzyl)phenyl)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran | 0.36 mmol, 300 mg | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C53H55ClO6
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium chloride | 0.053 mmol, 159 mg | [Pd](Cl)Cl
catalyst | copper chloride | 0.27 mmol, 267 mg | [Cu](Cl)Cl
product | 1-(5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyloxy)propan-2-one | 0.33 mmol, 178 mg, yield 58.2% | ClC=1C(=CC(=C(COCC(C)=O)C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)CC | C53H55ClO7
